US09386769B2
0.52 g of sodium propargyl alcohol and 10 mL of anhydrous dichloromethane were added into a 100 mL three-necked flask equipped with a magnetic stirrer, a condenser and a drying tube, under stirring at room temperature, 1.15 g of 6-chloro-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridin-2-amine, prepared according to the example 1, in 5 mL of dichloromethane was added dropwise. After that, the reaction mixture was stirred at room temperature for 1 to 2 hours, and then stirred at reflux temperature for 2 to 5 hours. After cooling down to the room temperature, the reaction mixture was treated by the method according to example 1 to obtain 0.29 g of 6-propargyloxy-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine, as a viscous yellow-green solid in a yield of 23.8%. GC-MS (M+) (EI, 70 eV, m/z) calc: 352. found: 352. 1H NMR (CDCl3/TMS, 300 MHz) δ (ppm): (CDCl3) 1.212 (t, J=7.2 Hz, 3H, CH3), 2.497 (t, J=2.4 Hz, 1H, CH), 3.265 (q, J=7.2 Hz, 2H, CH2), 4.850 (s, 2H, CH2), 4.969 (s, 2H, CH2), 6.263 (d, J=8.7 Hz, 1H, Py H), 7.489 (s, 1H, Thiazole-H), 8.182 (d, J=8.7 Hz, 1H, Py H).

reactant | sodium propargyl alcohol | 0.52 g | C(C#C)O.[Na]
reactant | 6-chloro-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridin-2-amine | 1.15 g | ClC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)[N+](=O)[O-] | C11H10Cl2N4O2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-propargyloxy-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine | 0.29 g, yield of 23.8% | C(C#C)OC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)[N+](=O)[O-] | C14H13ClN4O3S
